US07968563B2
mCPBA (1.75 g of 77% pure material, 7.79 mmol) was added in portions over a period of five minutes to a solution of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde O-methyloxime (1.1 g, 3.9 mmol) in chloroform (40 mL), and the reaction was stirred at room temperature for one hour. Ammonium hydroxide (20 mL) was added, and the resulting mixture was stirred for five minutes before the addition of p-toluenesulfonyl chloride (0.891 g, 4.68 mmol) in portions. The reaction mixture was stirred at room temperature for 1.5 hours. The aqueous layer was then separated and extracted with dichloromethane (3×30 mL). The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 2.2 g of crude product as a brown foamy solid. The crude product was dissolved in dichloromethane (15 mL) and purified by chromatography using a HORIZON HPFC system (FLASH 40M silica cartridge available from Biotage, Inc., eluting with 2% to 7% methanol in ethyl acetate). The resulting product (580 mg) was recrystallized from acetonitrile (10 mL), and the crystals were isolated by filtration, washed with diethyl ether, and dried overnight in a vacuum oven at 65° C. to provide 236 mg of 4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde O-methyloxime as a brown solid, mp 181-183° C.

reactant | mCPBA | 7.79 mmol, 1.75 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde O-methyloxime | 3.9 mmol, 1.1 g | CON=CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C16H18N4O
reactant | Ammonium hydroxide | 20 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 4.68 mmol, 0.891 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde O-methyloxime | 236 mg | CON=CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC(C)C | C16H19N5O
